US04061761
4-(4-Chloro-3-sulfamoylphenyl)-2-isopropylimino-3-methyl-1,3-thiazolidine-4-ol
7 g of ground 4-(4-chloro-3-sulfamoylphenyl)-2-isopropylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide were dissolved in 80 ml of 40° C hot water and stirred for 30 minutes at 40° C after adding it to a mixture of 60 ml of saturated sodium bicarbonate solution and 100 ml of water. After cooling to room temperature, the mixture was extracted with 200 ml of diethyl ether, the organic phase was dried over sodium sulfate and the solvent was distilled off under reduced pressure. The residue was dissolved in 40 ml of diisopropyl ether and the end product was precipitated by pouring it into 200 ml of stirred petroluem ether.

reactant | 4-(4-chloro-3-sulfamoylphenyl)-2-isopropylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC(C)C)C)O)S(N)(=O)=O
reactant | sodium bicarbonate | 60 ml | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | water | 100 ml | O | H2O
product | 4-(4-Chloro-3-sulfamoylphenyl)-2-isopropylimino-3-methyl-1,3-thiazolidine-4-ol | ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC(C)C)C)O)S(N)(=O)=O | C13H18ClN3O3S2
